US05059611
3-(2-Trimethylsilyl-4-furyl)propan-1-al is reacted with dioctylmalonate in tetrahydrofuran in the presence of acetic acid and piperidine to give 3-[4,4-di (carbooctanoxy)-3-butenyl]- 5-trimethylsilylfuran which is treated with cold aqueous potassium hydroxide to give 3-(4-carboxy-4-carbooctanoxy-3-butenyl)-5-trimethylsilylfuran.

reactant | 3-(2-Trimethylsilyl-4-furyl)propan-1-al | C[Si](C=1OC=C(C1)CCC=O)(C)C | C10H16O2Si
reactant | dioctylmalonate | C(CCCCCCC)C(C(=O)[O-])(C(=O)[O-])CCCCCCCC
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-trimethylsilylfuran | C[Si](C1=CC=CO1)(C)C | C7H12OSi
